US04169097
2,3-Dihydro-4H-1-benzopyran-4-one O-(Methylcarbamoyl) oxime
A 60 g (0.37 mole) portion of 4-chromanone oxime in 770 ml of benzene was refluxed until all water was removed via a Dean-Stark trap, 0.5 hrs. The solution was cooled to 25-30°, treated with 0.5 ml of triethylamine followed by the dropwise addition of 20 ml (0.33 mole) of methyl isocyanate at less than 70°. The reaction mixture was refluxed for 3 hrs., stored at room temperature overnight, filtered, and stripped of benzene under reduced pressure. The residue was treated with 200 ml of ether, cooled 20 min. and filtered. The white crystalline product was washed with 100 ml of ether and dried, m.p. 123°-126°. Yield: 64 g (88%).

reactant | 4-chromanone oxime | O1CCC(C2=CC=CC=C12)=NO | C9H9NO2
reactant | water | O | H2O
reactant | methyl isocyanate | 0.33 mole, 20 ml | CN=C=O | C2H3NO
solvent | benzene | 770 ml | C1=CC=CC=C1 | C6H6
product | 2,3-Dihydro-4H-1-benzopyran-4-one O-(Methylcarbamoyl) oxime | CNC(=O)ON=C1CCOC2=C1C=CC=C2 | C11H12N2O3
